### PR TITLE
feat(ModularForms): level-1 invariants theta_g, theta_h (Phase 6)

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Constructs level-1 invariants from the theta error terms for the Serre derivative identities proof (Blueprint Proposition 6.52). (Extracted from #259.)

### PR Chain

~~PR #262~~ → This PR (#263) → PR #259

In parallel: #248 fills two sorries of #259

| PR | Content | Dependencies |
|----|---------|--------------|
| ~~#262~~ | ~~Phases 1-5: error terms f₂, f₃, f₄ and S/T slash actions~~ (Merged into `main`) | None |
| **#263 (this)** | Phase 6: theta_g, theta_h level-1 invariants | #262 |
| #259 | Phases 7-10: cusp forms, dimension vanishing, main theorems | #262, #263 |
| #248 | Provides 2 asymptotic lemmas used by #259 (sorries until merged) | Independent |

~~⚠️ This PR depends on PR #262 - please merge #262 first.~~

### Contents

**Definitions:**
- `theta_g` (weight 6): g = (2H₂ + H₄)f₂ + (H₂ + 2H₄)f₄
- `theta_h` (weight 8): h = f₂² + f₂f₄ + f₄²

**S/T Invariance:**

| Lemma | Result |
|-------|--------|
| `theta_g_S_action` | g\|S = g |
| `theta_g_T_action` | g\|T = g |
| `theta_h_S_action` | h\|S = h |
| `theta_h_T_action` | h\|T = h |

### Technical Approach

Using the S/T transformation rules from ThetaDerivSlashActions:
- f₂|S = -f₄, f₂|T = -f₂
- f₄|S = -f₂, f₄|T = f₃

We verify that g and h are invariant under both S and T, making them level-1 (SL(2,ℤ)-invariant) modular forms of weights 6 and 8 respectively.

### Next Steps

In PR #259 (Phases 7-10), these will be shown to be cusp forms, which by dimension arguments (weight < 12) implies they vanish, completing the proof and addressing issue #89.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Comment by cameronfreer** [comment]
awaiting-review

File: SpherePacking/ModularForms/ThetaDerivIdentities.lean [hunk 1]
```diff
@@ -0,0 +1,165 @@
...
+We construct g and h such that g|S = g, g|T = g, h|S = h, h|T = h.
+This makes g and h into level-1 (SL(2,ℤ)-invariant) modular forms.
+-/
+
+open UpperHalfPlane hiding I
+open Complex Real Asymptotics Filter Topology Manifold SlashInvariantForm Matrix ModularGroup
+  ModularForm SlashAction MatrixGroups
+
+local notation "GL(" n ", " R ")" "⁺" => Matrix.GLPos (Fin n) R
+local notation "Γ " n:100 => CongruenceSubgroup.Gamma n
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ThetaDerivIdentities.lean]: I guess these are again not used.

Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivIdentities.lean]: Thanks, fixed in d9a0f6c07adc0c23e4c44a133df7bf9324afd0fe

File: SpherePacking/ModularForms/ThetaDerivIdentities.lean [hunk 2]
```diff
@@ -0,0 +1,162 @@
...
+
+Proof: g = (2H₂ + H₄)f₂ + (H₂ + 2H₄)f₄
+Under S: H₂ ↦ -H₄, H₄ ↦ -H₂, f₂ ↦ -f₄, f₄ ↦ -f₂
+g|S = (2(-H₄) + (-H₂))(-f₄) + ((-H₄) + 2(-H₂))(-f₂)
+    = (2H₄ + H₂)f₄ + (H₄ + 2H₂)f₂
+    = g -/
+lemma theta_g_S_action : (theta_g ∣[(6 : ℤ)] S) = theta_g := by
+  -- Linear combination transforms: (2•H₂ + H₄)|S = -(2•H₄ + H₂), (H₂ + 2•H₄)|S = -(H₄ + 2•H₂)
+  have h_2H₂_H₄ : (((2 : ℂ) • H₂ + H₄) ∣[(2 : ℤ)] S) = -((2 : ℂ) • H₄ + H₂) := by
+    simp only [SlashAction.add_slash, SL_smul_slash, H₂_S_action, H₄_S_action]
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ThetaDerivIdentities.lean]: Since you opened `SlashAction`, we can just write as `add_slash`. In fact, the same is true for the previous PR; feel free to update that here if you want.

File: SpherePacking/ModularForms/ThetaDerivIdentities.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivIdentities.lean]: Oops, thanks -- fixed in d9a0f6c07adc0c23e4c44a133df7bf9324afd0fe

**Comment by cameronfreer** [comment]
> Actually, could you simply merge `ThetaDerivIdentities.lean` and `ThetaSlashAction.lean` as a single file, named former? The second file just contains auxiliary definitions for the first (this) file.

Sounds good, see 1d463df7468f77a15bf590343fd4847e39a38d01

File: SpherePacking/ModularForms/ThetaDerivIdentities.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivIdentities.lean]: Thanks -- fixes for both are in c69eb409b64fc6991f4e5557f68e81cba1b61a73

Comment (cameronfreer) [reply SpherePacking/ModularForms/ThetaDerivIdentities.lean]: Also golfed a bit more of the earlier part in e0ed2aa1fd2e9410fd56e57ff3d3365cb37587cc

**Comment by seewoo5** [comment]
I think you didn't remove `ThetaDeriveSlashActions.lean` file?
